US07674815B2
To a solution of 630 mg (2.78 mmol) of 6-chloro-benzo[b]thiophene-2-carboxylic acid methyl ester in THF (5 ml) were added 6.95 ml of 1N LiOH-solution and the reaction mixture was stirred at RT for 4 h. The pH was then adjusted to 2-3 by addition of 1N HCl and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated to yield 579 mg (98%) of 6-chloro-benzo[b]thiophene-2-carboxylic acid as white solid. MS (ISP) 211.0 (M−H)−.

reactant | 6-chloro-benzo[b]thiophene-2-carboxylic acid methyl ester | 2.78 mmol, 630 mg | COC(=O)C1=CC2=C(S1)C=C(C=C2)Cl | C10H7ClO2S
reactant | LiOH | 1N, 6.95 ml | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-chloro-benzo[b]thiophene-2-carboxylic acid | 579 mg, 98% | ClC=1C=CC2=C(SC(=C2)C(=O)O)C1 | C9H5ClO2S
